US06610730B2
A solution of pyrrole-2-carboxylic acid methyl ester (79.9 mmol, 10.0 g) in carbon tetrachloride (300 ml) was heated to 70° C., then treated dropwise with a solution of bromine (99.9 mmol, 126.0 ml) in carbon tetrachloride (200 ml). The reaction was initiated by the addition of iodine (40 mg). After the addition was complete, the reaction was held at 70° C. for 10 min, then cooled to room temperature using an ice bath. The mixture was washed with 10% aqueous sodium carbonate (100 ml), followed by water (100 ml). The organics were concentrated under reduced pressure and the residue was purified by silica gel chromatography to provide 4.5 g (27%) of 5-bromo-1H-pyrrole-2-carboxylic acid methyl ester. 1H NMR (CDCl3) δ9.29 (1H, s), 6.80 (1H, dd, J=3.9, 2.7), 6.23 (1H, dd, J=3.8, 2.6), 3.88 (3H, s).

reactant | pyrrole-2-carboxylic acid methyl ester | 79.9 mmol, 10.0 g | COC(=O)C=1NC=CC1 | C6H7NO2
reactant | bromine | 99.9 mmol, 126.0 ml | BrBr | Br2
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | iodine | 40 mg | II | I2
product | 5-bromo-1H-pyrrole-2-carboxylic acid methyl ester | 4.5 g, 27% | COC(=O)C=1NC(=CC1)Br | C6H6BrNO2
